US07423030B2
39.1. 2-(biphenyl-4-carbonyl)-5-methoxybenzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with 4-phenyl-N-methoxy-N-methylbenzamide.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-phenyl-N-methoxy-N-methylbenzamide | C1(=CC=CC=C1)C1=CC=C(C(=O)N(C)OC)C=C1 | C15H15NO2
product | 2-(biphenyl-4-carbonyl)-5-methoxybenzoic acid | C1(=CC=C(C=C1)C(=O)C1=C(C(=O)O)C=C(C=C1)OC)C1=CC=CC=C1 | C21H16O4
